US05864039
Dimethylformamide (200 ml) was added to 3-(tert-butoxycarbonylaminomethyl)pyrrolidine (14 g), and potassium carbonate (30 g) and N-(3-bromopropyl)phthalimide (18 g) were added at room temperature with stirring, and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure, and aqueous potassium carbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The mixture was dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 17 g of 2-(3-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)propyl)-2,3-dihydro-1 H-isoindole-1,3-dione.

reactant | 3-(tert-butoxycarbonylaminomethyl)pyrrolidine | 14 g | C(C)(C)(C)OC(=O)NCC1CNCC1 | C10H20N2O2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-bromopropyl)phthalimide | 18 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | Dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(3-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)propyl)-2,3-dihydro-1 H-isoindole-1,3-dione | 17 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C21H29N3O4
